US05620991
2.14 g of (5-cyano-3-benzofuranyl)methyltriphenylphosphonium chloride and 0.7 g of 4-methoxyphenylacetaldehyde were dissolved in a solvent mixture of 100 ml of tetrahydrofuran and 100 ml of ethanol. The thus prepared solution was mixed with 0.71 g of 1,8-diaza-bicyclo[5.4.0]-7-undecene and stirred for 24 hours. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using toluene as an elution solvent, thereby obtaining 0.86 g of yellow and oily 3-[3-(4-methoxyphenyl)allyl]-5-benzofurancarbonitrile as a mixture of E and Z forms. The thus obtained E/Z mixture was dissolved in 100 ml of ethanol, and the solution was subjected to catalytic hydrogenation under normal pressure in the presence of 370 mg of 5% palladium carbon catalyst. Thereafter, the catalyst was removed by filtration, and the solvent was distilled off to obtain 0.6 g of 3-[3-(4-methoxyphenyl)propyl]-5-benzofurancarbonitrile. The thus obtained methoxy compound was dissolved in 20 ml of dichloromethane. With stirring at -40° C., to the resulting solution was added dropwise 10 ml of a dichloromethane solution containing 0.4 ml of boron tribromide. The resulting mixture was warmed up to room temperature and stirred for 2 hours. The resulting reaction solution was poured into cold dilute hydrochloric acid and extracted with chloroform. After drying the resulting organic layer and distilling off the solvent, the thus obtained residue was purified by subjecting it to silica gel column chromatography using toluene as an elution solvent. In this way, 280 mg of 3-[3-(4-hydroxyphenyl)propyl]-5-benzofurancarbonitrile.

reactant | (5-cyano-3-benzofuranyl)methyltriphenylphosphonium chloride | 2.14 g | [Cl-].C(#N)C=1C=CC2=C(C(=CO2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1
reactant | 4-methoxyphenylacetaldehyde | 0.7 g | COC1=CC=C(C=C1)CC=O | C9H10O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[3-(4-methoxyphenyl)allyl]-5-benzofurancarbonitrile | COC1=CC=C(C=C1)C=CCC1=COC2=C1C=C(C=C2)C#N | C19H15NO2
